US09193689B2
To a solution of 3-(4-fluoro-2-methylphenyl)propanoic acid (12 g, 65.93 mmol) in CH2Cl2 (200 mL) was added oxalyl chloride (11.3 mL, 131.7 mmol) and stirred at RT for 16 h. The reaction mixture was concentrated in vacuo and re-dissolved in CH2Cl2 (150 mL) and added to a suspension of AlCl3 (11.4 g, 85.7 mmol) in CH2Cl2 (150 mL) at 0° C. The reaction mixture was heated at 50° C. for 3 h and allowed to stir at RT for 16 h. The reaction mixture poured into ice water (150 mL), extracted with CH2Cl2 (2×100 mL), the organic extract was washed with 1N NaOH solution (2×50 mL), brine solution (50 mL), dried over Na2SO4 and concentrated in vacuo. The crude material was purified by silica gel column chromatography, eluting with 10% EtOAc/petroleum ether 60-80 to afford 6-fluoro-4-methyl-2,3-dihydro-1H-inden-1-one as an off white solid (7 g, 70%).

reactant | 3-(4-fluoro-2-methylphenyl)propanoic acid | 65.93 mmol, 12 g | FC1=CC(=C(C=C1)CCC(=O)O)C | C10H11FO2
reactant | oxalyl chloride | 131.7 mmol, 11.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 85.7 mmol, 11.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-4-methyl-2,3-dihydro-1H-inden-1-one | FC1=CC(=C2CCC(C2=C1)=O)C | C10H9FO
